US08134007B2
2-[2-(Difluoromethyl)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
1-Bromo-2-difluoromethylbenzene (2.5 g, 12 mmol), bis(pinacolato)diboron (3.47 g, 13.6 mmol), potassium acetate (3.56 g, 36.2 mmol) and 1,1′-[bis(diphenylphosphino)ferrocene]dichloropalladium (II) (0.884 g, 121 mmol) were combined and stirred in dimethylsulphoxide (25 ml). The reaction flask was purged with nitrogen for 5 minutes before heating to 80° C. for 10 hours. The mixture was cooled and partitioned between diethyl ether and water. Insoluble material was removed by filtration then the organic extract dried over MgSO4 and concentrating in vacuo to afford the crude title compound. The structure was proven at next stage in the synthesis.

reactant | 1-Bromo-2-difluoromethylbenzene | 12 mmol, 2.5 g | BrC1=C(C=CC=C1)C(F)F | C7H5BrF2
reactant | bis(pinacolato)diboron | 13.6 mmol, 3.47 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 36.2 mmol, 3.56 g | C(C)(=O)[O-].[K+]
solvent | dimethylsulphoxide | 25 ml | CS(=O)C | C2H6OS
product | 2-[2-(Difluoromethyl)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | FC(C1=C(C=CC=C1)B1OC(C(O1)(C)C)(C)C)F | C13H17BF2O2
